US04333934
A mixture of 4.2 g of imidazo-[1,2-a]-quinoline-2-methanol, 16.0 g of manganese dioxide and 11 ml of chloroform was refluxed for 4 hours and was then cooled overnight. The mixture was filtered through cellulose powder and the filter was washed with chloroform. The filtrate was evaporated to dryness under reduced pressure and the residue was triturated with diethyl ether to obtain 3.4 g of imidazo-[1,2-a]-quinoline-2-carboxaldehyde in the form of needles melting at 184°-185° C. after crystallization from an etherchloroform mixture.

reactant | imidazo-[1,2-a]-quinoline-2-methanol | 4.2 g | C1=C(N=C2N1C1=CC=CC=C1C=C2)CO | C12H10N2O
catalyst | manganese dioxide | 16.0 g | [O-2].[O-2].[Mn+4]
solvent | chloroform | 11 ml | C(Cl)(Cl)Cl | CHCl3
product | imidazo-[1,2-a]-quinoline-2-carboxaldehyde | 3.4 g | C1=C(N=C2N1C1=CC=CC=C1C=C2)C=O | C12H8N2O
